US08003670B2
Preparation of 5-Fluoro-1-[3′-(N,N-dimethylamino propoxy)benzenesulfonyl]-1H-indole
5-Fluoro-1-(3-hydroxybenzenesulfonyl) indole was treated in a similar procedure as given in the Example 1 with 3-dimethylaminopropylchloride hydrochloride (2.48 mmol, 0.393 grams), with some non-critical variations to obtain the above derivative.

reactant | 5-Fluoro-1-(3-hydroxybenzenesulfonyl) indole | FC=1C=C2C=CN(C2=CC1)S(=O)(=O)C1=CC(=CC=C1)O | C14H10FNO3S
reactant | 3-dimethylaminopropylchloride hydrochloride | 2.48 mmol, 0.393 grams | Cl.CN(CCCCl)C
product | 5-Fluoro-1-[3′-(N,N-dimethylamino propoxy)benzenesulfonyl]-1H-indole | FC=1C=C2C=CN(C2=CC1)S(=O)(=O)C1=CC(=CC=C1)OCCCN(C)C | C19H21FN2O3S
